US07429667B2
5-[4-(2,5-Dichloro-phenoxy)-3-fluoro-phenylamino]-3-hydroxy-N-(2-hydroxy-1-methyl-ethyl)-isothiazole-4-carboxamidine
A mixture of 5-[4-(2,5-dichloro-phenoxy)-3-fluoro-phenylamino]-3-hydroxy-isothiazole-4-carbonitrile (0.2 g) and DL-2-amino-1-propanol (0.7 g) in 20 ml of ethanol was placed in a high-pressure reaction equipment and heated to 100° C. overnight. The reaction mixture was cooled to room temperature and the solvent was removed in vacuo. The residue was chromatographed by silica gel column (chloroform/methanol, 25:1) to give the desired product as a light yellow solid. MS: 470; 1H NMR (DMSO-d6, 300 MHz): δ 10.60 (brs, 1/2H, NH, D2O exchangeable), 9.69 (brs, 1/2H, NH, D2O exchangeable), 9.22 (brs, 1/2H, NH, D2O exchangeable), 8.55 (s, 1H, OH, D2O exchangeable), 7.91 (brs, 1/2H, NH, D2O exchangeable), 7.70 (brs, 1/2H, NH, D2O exchangeable), 7.61 (d, 1H, J=8.7 Hz, ArH), 7.22 (dd, 1H, J=2.1, 8.7 Hz, ArH), 7.16 (t, 1H, J=8.7 Hz, ArH), 6.99 (dd, 1H, J=2.1, 12.6 Hz, ArH), 6.88 (d, 1H, J=2.1 Hz, ArH), 6.83 (dd, 1H, J=2.1, 8.7 Hz, ArH), 5.09 (brs, 1H, OH), 3.80 (m, 1H, CH), 3.49 (m, 1H, CH). 3.44 (m, 1H, CH), 1.15 (d, 3H, J=6.3 Hz, CH3).

reactant | 5-[4-(2,5-dichloro-phenoxy)-3-fluoro-phenylamino]-3-hydroxy-isothiazole-4-carbonitrile | 0.2 g | ClC1=C(OC2=C(C=C(C=C2)NC2=C(C(=NS2)O)C#N)F)C=C(C=C1)Cl | C16H8Cl2FN3O2S
reactant | DL-2-amino-1-propanol | 0.7 g | CC(CO)N | C3H9NO
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5-[4-(2,5-Dichloro-phenoxy)-3-fluoro-phenylamino]-3-hydroxy-N-(2-hydroxy-1-methyl-ethyl)-isothiazole-4-carboxamidine | ClC1=C(OC2=C(C=C(C=C2)NC2=C(C(=NS2)O)C(=N)NC(CO)C)F)C=C(C=C1)Cl | C19H17Cl2FN4O3S
